US04824996
N-[3-(dimethylamino)propyl]-N'-hexadecylurea
1.34 ml (5 meq) of hexadecyl isocyanate and 0.7 ml (5 meq) of 3-dimethylaminopropylamine are combined in 5 ml of tetrahydrofuran and reacted over a weekend at room temperature. The reaction mixture is filtered, washed with tetrahydrofuran, dried in vacuo and recrystallized from acetone to yield 1.2 gm of title compound with a m.p. of 78°-79° C.

reactant | hexadecyl isocyanate | 1.34 ml, 5 meq | C(CCCCCCCCCCCCCCC)N=C=O | C17H33NO
reactant | 3-dimethylaminopropylamine | 0.7 ml, 5 meq | CN(CCCN)C | C5H14N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[3-(dimethylamino)propyl]-N'-hexadecylurea | 1.2 gm | CN(CCCNC(=O)NCCCCCCCCCCCCCCCC)C | C22H47N3O
